US07094807B2
Preparation of 4-[3-(Naphthalene-2-carbonyl)-thioureido]-benzoic Acid Butyl Ester (Compound 1)
2-Naphthoyl chloride (190 mg, 1 mmol) is added to a solution of ammonium thiocyanate (200 mg, about 3 mmol) in acetone (5 ml) and stirred at room temperature for 1 hour. Butyl 4-aminobenzoate (180 mg, 0.93 mmol) is added to the reaction mixture. Stirring is continued overnight at room temperature. The solid, which forms is filtered and washed with water (2×5 ml) followed by acetone/hexane (3:1) (2×10 ml) and dried.

reactant | 2-Naphthoyl chloride | 1 mmol, 190 mg | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | ammonium thiocyanate | about 3 mmol, 200 mg | [S-]C#N.[NH4+]
reactant | Butyl 4-aminobenzoate | 0.93 mmol, 180 mg | NC1=CC=C(C(=O)OCCCC)C=C1 | C11H15NO2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 4-[3-(Naphthalene-2-carbonyl)-thioureido]-benzoic Acid Butyl Ester | C(CCC)OC(C1=CC=C(C=C1)NC(=S)NC(=O)C1=CC2=CC=CC=C2C=C1)=O | C23H22N2O3S
